US07135475B2
This compound can also be prepared by a method similar to that of Wells et al. as described in J. Med. Chem. 1981, 24(8), 954. Catalytic reduction of 6-amino-3-benzyl-5-nitroso-1H-pyrimidine-2,4-dione using PtO2 in ethanol at 50 psi of hydrogen at room temperature. Once the reduction is complete the catalyst is filtered off through a pad of Celite and the filtrate concentrated to give 3-benzyl-5,6-diamino-1H-pyrimidine-2,4-dione as a tan solid.

reactant | 6-amino-3-benzyl-5-nitroso-1H-pyrimidine-2,4-dione | NC1=C(C(N(C(N1)=O)CC1=CC=CC=C1)=O)N=O | C11H10N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 3-benzyl-5,6-diamino-1H-pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)N)N)=O | C11H12N4O2
